US08461179B1
A −70° C. solution of 4-amino-2-(1-ethyl-7-(methylamino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-5-fluorobenzonitrile (100 mg, 0.296 mmol) in DCM was treated drop-wise with n-BuLi (0.47 mL, 1.17 mmol), stirred at −60° C. for 40 min, treated with phenyl isocyanate (70.6 mg, 0.593 mmol), warmed to RT and stirred for 12 h. The mixture was concentrated and purified by HPLC to afford 1-(4-cyano-5-(1-ethyl-7-(methylamino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2-fluorophenyl)-3-phenylurea (22 mg, 16% yield). 1H NMR (400 MHz, DMSO-d6): δ 9.28 (s, 1H), 9.08 (s, 1H), 8.46 (s, 1H), 8.42 (d, J=8.0 Hz, 1H), 7.94 (s, 1H), 7.91 (s, 1H), 7.45-7.43 (m, 2H), 7.31-7.27 (m, 2H), 7.18-7.13 (q, J=4.8 Hz, 1H), 7.02-6.98 (m, 1H), 6.26 (s, 1H), 4.16 (q, J=7.2 Hz, 2H), 2.87 (d, J=4.8 Hz, 3H), 1.22 (t, J=7.2 Hz, 3H); MS (ESI) m/z: 457.3 [M+H]+.

reactant | 4-amino-2-(1-ethyl-7-(methylamino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-5-fluorobenzonitrile | 0.296 mmol, 100 mg | NC1=CC(=C(C#N)C=C1F)C=1C(N(C2=CC(=NC=C2C1)NC)CC)=O | C18H16FN5O
reactant | n-BuLi | 1.17 mmol, 0.47 mL | [Li]CCCC
reactant | phenyl isocyanate | 0.593 mmol, 70.6 mg | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 1-(4-cyano-5-(1-ethyl-7-(methylamino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2-fluorophenyl)-3-phenylurea | 22 mg, 16% yield | C(#N)C1=CC(=C(C=C1C=1C(N(C2=CC(=NC=C2C1)NC)CC)=O)NC(=O)NC1=CC=CC=C1)F | C25H21FN6O2
